US04048177
3,4-Dihydro-3,3-dimethyl-2-(4-methyl-1-piperazinyl)-4-phenylquinolin-4-ol
2-Chloro-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol (0.7g., 0.0025 mole) was dissolved in dry dioxan (10 ml.). Triethylamine (0.5g) followed by N-methylpiperazine (1.92g.) were added and the mixture stirred for 4 hours. The mixture was then evaporated down to a white solid residue which was recrystallised from isopropyl alcohol to give the title compound (0.60g., m.p. 268° - 269° C) [Found: C, 75.6; H, 8.1; N, 12.15% C22H27N3O requires C, 75.6; H, 7.8; N, 12.0%].

reactant | 2-Chloro-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol | 0.0025 mole, 0.7g | ClC1=NC2=CC=CC=C2C(C1(C)C)(O)C1=CC=CC=C1 | C17H16ClNO
reactant | Triethylamine | 0.5g | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | 1.92g | CN1CCNCC1 | C5H12N2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3,4-Dihydro-3,3-dimethyl-2-(4-methyl-1-piperazinyl)-4-phenylquinolin-4-ol | 0.60g | CC1(C(=NC2=CC=CC=C2C1(O)C1=CC=CC=C1)N1CCN(CC1)C)C | C22H27N3O
